US07534547B2
Terephthaloyl dichloride (5.0 g: 24.6 mmol) was dissolved in 50 ml of dehydrated pyridine, and tert-butanol (4.0 g: 54.1 mmol) was added to the mixture. The reaction was carried out at a room temperature for 24 hours. The reaction mixture was poured into an iced water, and the resultant mixture was acidified by adding hydrochloric acid. The resultant precipitate was collected by filtration, washed with water, dried, and recrystallized from methanol to provide 6.1 g (21.9 mmol) of 1,4-di(tert-butyl) terephthalate.

reactant | Terephthaloyl dichloride | 24.6 mmol, 5.0 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | tert-butanol | 54.1 mmol, 4.0 g | C(C)(C)(C)O | C4H10O
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1,4-di(tert-butyl) terephthalate | 21.9 mmol, 6.1 g | C(C1=CC=C(C(=O)OC(C)(C)C)C=C1)(=O)OC(C)(C)C | C16H22O4
